US06291432B1
(R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[(S)-2-acetylamino-3-methylbutanoyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide (Ac-Val-Apns-Dmt-NHBzl(2-Me))
Acetic anhydride (31 μl) and triethylamine (46 μl) were added to a solution of H-Val-Apns-Dmt-NHBzl(2-Me) (162 mg) obtained in the step 2 of Example 8 in ethyl acetate (5 ml) and the mixture was stirred overnight. After the addition of ethyl acetate, the reaction mixture was washed with 3% Na2CO3, 1N HCl, and 5% NaCl and dried over MgSO4. After filtration and concentration, the residue was reprecipitated from ethyl acetate/n-hexane to obtain the title compound (143 mg).

reactant | Acetic anhydride | 31 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 46 μl | C(C)N(CC)CC | C6H15N
reactant | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-3-(L-valyl)amino-2-hydroxy-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4carboxamide | 162 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@@H](N)C(C)C)=O)O)=O)C=CC=C1 | C29H40N4O4S
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (R)-N-(2-methylbenzyl)-3-{(2S,3S)-2-hydroxy-3-[(S)-2-acetylamino-3-methylbutanoyl]amino-4-phenylbutanoyl}-5,5-dimethyl-1,3-thiazolidine-4-carboxamide | 143 mg | CC1=C(CNC(=O)[C@H]2N(CSC2(C)C)C([C@H]([C@H](CC2=CC=CC=C2)NC([C@H](C(C)C)NC(C)=O)=O)O)=O)C=CC=C1 | C31H42N4O5S
